* C:\users\dell\Desktop\Communication\AmDeModulator.asc
* Generated by LTspice 26.0.0 for Windows.
Q1 N002 N007 N011 0 2N3904
Q2 N004 N008 N012 0 2N3904
C1 N012 N011 10µ
Q3 N011 N015 N016 0 2N3904
Q4 N012 N015 N017 0 2N3904
R1 N016 0 1.5k
R2 N017 0 1.5k
R3 N001 N002 1k
R4 N001 N004 1k
R5 N002 N007 4.7k
R6 N008 N004 4.7k
R7 N013 N007 2.2k
R8 N013 N008 2.2k
V1 N001 N013 2.5
V2 N013 0 2.5
VC N006 N013 SINE(0 0.05 20k 0)
VM N014 N013 SINE(0 0.6 100 0)
C2 N015 N014 4.7µ
C3 N007 N006 1µ
C4 N013 N008 1µ
R9 N013 N015 10k
R10 N015 0 10k
R11 N003 N002 20k
R12 N005 N004 20k
R13 N005 N013 20k
R14 N009 N003 20k
X§U1 N005 N003 N001 0 N009 AD8542 ;§pnba In+)In-)V+)V-)OUT
D1 N009 N010 1N4148
C5 N010 0 100n
R15 N010 0 100k
.model D D
.lib C:\users\dell\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\dell\AppData\Local\LTspice\lib\cmp\standard.bjt
* Modulation
* Carrier
* A M Output
* 5p0
* 2p5
.tran 0 50m 0
* Detector
* Library below included based on ModelFile attribute of instance X§U1 (C:\users\dell\AppData\Local\LTspice\lib\sym\OpAmps\AD8542.asy)
.lib AD8542.sub
.backanno
.end
